US04065497
N,N-Di-(2,3-dihydroxypropyl)trimethylenediamine
Bis-(2,3-dihydroxypropyl)amine (16.5 g., 0.1 mole) and acrylonitrile (6.4 g., 0.12 mole) was mixed in an ice bath and then warmed to room temperature. After standing for 2 hours, the mixture was then heated at 45° C.-55° C. for 3 hours. The excess acrylonitrile was removed by gentle warming under reduced pressure. The residue was taken up in ethyl alcohol, mixed with sponge nickel catalyst and hydrogenated under 200 psi hydrogen using good agitation. After filtration of catalyst the solvent and excess acrylonitrile was removed by stripping under reduced pressure to leave the product as an oil.

reactant | Bis-(2,3-dihydroxypropyl)amine | 0.1 mole, 16.5 g | OC(CNCC(CO)O)CO | C6H15NO4
reactant | acrylonitrile | 0.12 mole, 6.4 g | C(C=C)#N | C3H3N
product | N,N-Di-(2,3-dihydroxypropyl)trimethylenediamine | OC(CN(CCCN)CC(CO)O)CO | C9H22N2O4
